US07485634B2
4,4-Dimethyl-2,3,4,9-tetrahydro-1H-beta-carboline-1-carboxylic acid ethyl ester was prepared in a manner similar to that described in Example 66A by replacing tryptamine-HCl with 2-(1H-indol-3-yl)-2-methylpropylamine, which was synthesized using 2 equivalents of iodomethane during alkylation of (1-tert-butoxycarbonylindol-3-yl)acetonitrile as described in Example 32B; MS(ESI): 273(MH+).

reactant | 2-(1H-indol-3-yl)-2-methylpropylamine | N1C=C(C2=CC=CC=C12)C(CN)(C)C | C12H16N2
reactant | iodomethane | 2 equivalents | IC | CH3I
reactant | (1-tert-butoxycarbonylindol-3-yl)acetonitrile | C(C)(C)(C)OC(=O)N1C=C(C2=CC=CC=C12)CC#N | C15H16N2O2
product | 4,4-Dimethyl-2,3,4,9-tetrahydro-1H-beta-carboline-1-carboxylic acid ethyl ester | C(C)OC(=O)C1NCC(C=2C3=CC=CC=C3NC12)(C)C | C16H20N2O2
